US06232313B1
7-Chloro-1-hydroxy-3-(4-isopropylphenyl)-3,4,5,10-tetrahydropyridazino[4,5-b]-quinoline-4,10-dione.
To a stirred suspension of dimethyl 7-chloro-4-hydroxyquinoline-2,3-dicarboxylate (2.01 g, 6.80 mM) and 4-isopropylphenyl hydrazine hydrochloride (8.90 g, 47.6 mM) in ethanol (72 mL) was added triethylamine (7.6 mL, 54.5 mM) to give a brown solution. This solution was refluxed for 16 hours, cooled to room temperature, and then added slowly to a mixture of hydrochloric acid (12N, 100 mL) and ice (100 mL) with vigorous stirring whereupon a pink suspension formed. The suspension was filtered, and the collected solids were washed with a cold solution made by mixing methanol (100 mL), hydrochloric acid (100 mL, 12N) and ice (100 g) to give the 4-isopropylphenyl hydrazine salt of the title compound as a purple powder (1.80 g). This material was refluxed in glacial acetic acid (15 mL) for 3 hours to give a tan suspension. The suspension was cooled to room temperature and filtered. The collected solids were washed with glacial acetic acid (10 mL) and ether to give the title compound (1.125 g, 43%) as a tan powder, mp 367-369° C.: MS(CI): 382 (M+H).

reactant | dimethyl 7-chloro-4-hydroxyquinoline-2,3-dicarboxylate | 6.80 mM, 2.01 g | ClC1=CC=C2C(=C(C(=NC2=C1)C(=O)OC)C(=O)OC)O | C13H10ClNO5
reactant | 4-isopropylphenyl hydrazine hydrochloride | 47.6 mM, 8.90 g | Cl.C(C)(C)C1=CC=C(C=C1)NN
reactant | triethylamine | 54.5 mM, 7.6 mL | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 12N, 100 mL | Cl | ClH
solvent | ethanol | 72 mL | C(C)O | C2H6O
product | 7-Chloro-1-hydroxy-3-(4-isopropylphenyl)-3,4,5,10-tetrahydropyridazino[4,5-b]-quinoline-4,10-dione | 1.80 g | ClC=1C=CC=2C(C3=C(NC2C1)C(N(N=C3O)C3=CC=C(C=C3)C(C)C)=O)=O | C20H16ClN3O3
